US04298527
Synthesis of S-methyl N-[N'-methyl-N'-phenylthiosulfinylcarbamoyloxy]thioacetimidate.
A mixture of 3.3 g S-methyl N-[N'-methylcarbamoyloxy]thioacetimidate (0.02 mol), 1.9 g pyridine (0.024 mol) and 2.5 g thionyl chloride (0.021 mol), in 20 ml dry tetrahydrofuran was stirred at room temperature for 4 hours. Pyridine (1.9 g, 0.024 mol) was added and followed by 2.2 g benzenethiol (0.02 mol) added dropwise at water bath temperature. Stirring was continued for an additional hour, and the mixture was worked up as described for Example I. The resulting oily residue was purified by preparative thin-layer chromatography, and the NMR spectrum obtained.

reactant | S-methyl N-[N'-methylcarbamoyloxy]thioacetimidate | 0.02 mol, 3.3 g | CNC(=O)ON=C(C)SC | C5H10N2O2S
reactant | pyridine | 0.024 mol, 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.021 mol, 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | Pyridine | 0.024 mol, 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | benzenethiol | 0.02 mol, 2.2 g | C1(=CC=CC=C1)S | C6H6S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | S-methyl N-[N'-methyl-N'-phenylthiosulfinylcarbamoyloxy]thioacetimidate | CN(C(=O)ON=C(C)SC)S(=S)C1=CC=CC=C1 | C11H14N2O2S3
